US04164579
The procedure of Example 1 is followed but starting with triethylammonium (6-methylpyrid-2-yl)dithiocarbamate (71.0 g) and 1-chlorobutan-2-one (26.6 g) in distilled water (300 cc) at 20° C. The reaction is carried out for 3 hours at 20° C. After recrystallisation of the product from ethanol (250 cc), there is obtained 4-ethyl-4-hydroxy-3-(6-methylpyrid-2-yl)-thiazolidine-2-thione (45.0 g) melting at 118° C.

reactant | triethylammonium (6-methylpyrid-2-yl)dithiocarbamate | 71.0 g | CC1=CC=CC(=N1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | 1-chlorobutan-2-one | 26.6 g | ClCC(CC)=O | C4H7ClO
solvent | water | 300 cc | O | H2O
product | 4-ethyl-4-hydroxy-3-(6-methylpyrid-2-yl)-thiazolidine-2-thione | 45.0 g | C(C)C1(N(C(SC1)=S)C1=NC(=CC=C1)C)O | C11H14N2OS2
